US07087604B2
(±)cis-2-Hydroxymethyl-1-cyclohexylamine hydrochloride (3.3 g) was dissolved in THF (60 mL) and water (20 mL) prior to the addition of Et3N (5.6 mL). This was cooled to 0° C. and Boc2O (4.4 g) was added. The reaction was warmed to rt and stirred overnight. The reaction was quenched with water and EtOAc. The EtOAc layer was washed with 1 N HCl solution, NaHCO3 solution, and brine. The organic layer was dried, filtered, and concentrated. A portion of this material (300 mg) was dissolved in THF and placed in a high-pressure reaction vessel prior to the addition of bis(4-bromophenyl)disulfide (1.25 g) and Bu3P (1.3 mL). The reaction was heated at 75° C. for 72 h. After cooling, Et2O was added along with 2N NaOH (aq). The ether layer was dried, filtered, and concentrated. The resulting residue was placed directly on a flash column. This chromatography gave (±)(1R*,2S*)-2-tert-butyloxycarbonylamino-1-[(4-bromophenyl)sulfanylmethyl]cyclohexane (324 mg). MS found: (M+H)+=402.1.

reactant | (±)cis-2-Hydroxymethyl-1-cyclohexylamine hydrochloride | 3.3 g | Cl.OC[C@@H]1[C@@H](CCCC1)N
reactant | Boc2O | 4.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | bis(4-bromophenyl)disulfide | 1.25 g | BrC1=CC=C(C=C1)SSC1=CC=C(C=C1)Br | C12H8Br2S2
reactant | Bu3P | 1.3 mL | P(CCCC)(CCCC)CCCC | C12H27P
reactant | NaOH | 2N | [OH-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
solvent | Et3N | 5.6 mL | CCN(CC)CC | C6H15N
solvent | water | 20 mL | O | H2O
product | (±)(1R*,2S*)-2-tert-butyloxycarbonylamino-1-[(4-bromophenyl)sulfanylmethyl]cyclohexane | 324 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)CSC1=CC=C(C=C1)Br | C18H26BrNO2S
